US04289777
(B) 1-Butyl-1,4-dihydro-7-hydroxy-4-quinolone-3-carboxylic Acid
5.0 g. (18 mmol) of 1-butyl-1,4-dihydro-7-methoxy-4-quinolone-3-carboxylic acid is refluxed for 4 hours in 65 ml. of hydrobromid acid (48%). The mixture is then poured into water; the solid product is filtered off and recrystallized from dimethylformamide.

reactant | 1-butyl-1,4-dihydro-7-methoxy-4-quinolone-3-carboxylic acid | 18 mmol | C(CCC)N1C=C(C(C2=CC=C(C=C12)OC)=O)C(=O)O | C15H17NO4
reactant | hydrobromid | Br | BrH
solvent | water | O | H2O
product | 1-Butyl-1,4-dihydro-7-hydroxy-4-quinolone-3-carboxylic Acid | C(CCC)N1C=C(C(C2=CC=C(C=C12)O)=O)C(=O)O | C14H15NO4
